*****************************************************************
* NXP PSMN7R0-30MLC
*
* Polarity N-Channel
* Ratings 30V/6.950000E-003OHMS/66.7934152001338A
*
* Date Created Wed Jun 13 04:22:51 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R0-30MLC DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0048470751014046 TC=0.00517779607396502,5.55628521332228E-06
RBD 9 4 0.00247802704494198 TC=0.00517779607396502,5.55628521332228E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 9.75464331914136e-10
RG 1 2 2.02791376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -0.2	409.082
+ -0.1	352.085
+ 0	351.557
+ 0.1	352.676
+ 0.2	306.787
+ 0.5	256.852
+ 1	206.446
+ 2	161.169
+ 3	141.018
+ 4	128.334
+ 5	119.58
+ 6	113.123
+ 8	103.42
+ 10	96.978
+ 12	92.651
+ 15	88.038
+ 20	82.69



.MODEL MINT NMOS(Vto=2.25200768101489 Kp=1.446894e+002 Nfs=490000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=3.43071773343199e-13
+ N=1 M=0.700000000000001 VJ=0.99 Fc=0.5 Cjo=1.084759e-09 Tt=1.8264e-08)

.ENDS

